US04289711
(±) Trans 3-Acetyl-1-cyano-2,2-dimethylcyclopropane
Phosphorus oxychloride (202.4 g, 1.32 m) was added dropwise to a solution of 3-acetyl-2,2-dimethyl-cyclopropane-1-carboxamide. (34.6 g, 0.22 m) in benzene (140 ml) and the resultant mixture refluxed for 3 hours. Excess reagents were removed in vacuo and the residue dissolved in ether (100 ml). The ether was washed with water (3×60 ml), dried over anhydrous magnesium sulphate and evaporated in vacuo to give a dark oil b.p. 72°-5° C./1.0 mm.

reactant | Phosphorus oxychloride | 202.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-acetyl-2,2-dimethyl-cyclopropane-1-carboxamide | C(C)(=O)C1C(C1C(=O)N)(C)C | C8H13NO2
solvent | benzene | 140 ml | C1=CC=CC=C1 | C6H6
product | (±) Trans 3-Acetyl-1-cyano-2,2-dimethylcyclopropane | C(C)(=O)[C@@H]1C([C@H]1C#N)(C)C | C8H11NO
